US04386073
5.0 g (14.5 mmoles) of BOC-Nva-Leu-OMe are dissolved in 50 ml of methanol, and gaseous ammonia is introduced into the solution for 0.5 hours under ice cooling. The solution is allowed to stand at room temperature overnight, then cooled again, saturated with gaseous ammonia, and evaporated after 4 hours of standing. The crystalline residue is recrystallized from a mixture of ethyl acetate and ether. 4.37 g (91%) of BOC-Nva-Leu-NH2 are obtained; m.p.: 158°-159° C., Rf2 =0.60, [α]D25 =-48.7° (c=1%, in methanol).

reactant | BOC-Nva-Leu-OMe | 14.5 mmoles, 5.0 g | N([C@@H](CCC)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C17H32N2O5
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | BOC-Nva-Leu-NH2 | 4.37 g, 91% | N([C@@H](CCC)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OC(C)(C)C | C16H31N3O4
